US08242274B2
Compound 192: 5-{4-[2-(Cyclopropanecarbonyl-amino)-[1,2,4]triazolo[1,5-a]pyridin-5-yl]-phenoxymethyl}-pyridine-2-carboxylic acid amide
To a solution of cyclopropanecarboxylic acid {5-[4-(6-cyano-pyridin-3-ylmethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-amide (30 mg, 0.073 mmol, 1 equiv) and K2CO3 (10 mg, 0.073 mmol, 1 equiv) in DMSO (0.2 mL) at 10° C., 30% H2O2 (17 μL, 0.146 mmol, 2 equiv) was added dropwise. After stirring at room temperature the mixture for 4 h, it was diluted with DMSO and filtered. The filtrate was submitted for preparative HPLC purification: UPLC system (Xbridge™ Prep C18, 5 μm, 19×100 mm column); 8 min LC; flow: 20 mL/min; gradient: from 30% to 70% acetonitrile in water 0.1% TFA; isolating the final pure product.

reactant | cyclopropanecarboxylic acid {5-[4-(6-cyano-pyridin-3-ylmethoxy)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-amide | 0.073 mmol, 30 mg, 1 equiv | C(#N)C1=CC=C(C=N1)COC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C23H18N6O2
reactant | K2CO3 | 0.073 mmol, 10 mg, 1 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O2 | 0.146 mmol, 17 μL, 2 equiv | OO | H2O2
solvent | DMSO | 0.2 mL | CS(=O)C | C2H6OS
product | 5-{4-[2-(Cyclopropanecarbonyl-amino)-[1,2,4]triazolo[1,5-a]pyridin-5-yl]-phenoxymethyl}-pyridine-2-carboxylic acid amide | C1(CC1)C(=O)NC1=NN2C(C=CC=C2C2=CC=C(OCC=3C=CC(=NC3)C(=O)N)C=C2)=N1 | C23H20N6O3
